US09126937B2
N-cyclohexyl-N-(6-hydroxyhexyl)benzamide:
N-(6-((tert-butyldimethylsilyl)oxy) hexyl)-N-cyclohexylbenzamide (242 mg, 0.58 mmol) was dissolved in THF (2 mL) and treated with TBAF (1M in THF, 0.72 mL, 0.72 mmol). The mixture was stirred at room temperature for overnight. The mixture was then concentrated and purified on silica gel with ethyl acetate:hexanes from 2:8 to 1:1 gave the desired product as a clear oil (136 mg, 77%). 1H NMR (300 MHz, CDCl3): δ 7.42-7.29 (m, 5H), 3.75-2.98 (m, 5H), 1.98-0.80 (m, 19H).

reactant | N-(6-((tert-butyldimethylsilyl)oxy) hexyl)-N-cyclohexylbenzamide | 0.58 mmol, 242 mg | [Si](C)(C)(C(C)(C)C)OCCCCCCN(C(C1=CC=CC=C1)=O)C1CCCCC1 | C25H43NO2Si
reactant | TBAF | 0.72 mmol, 1M, 0.72 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-cyclohexyl-N-(6-hydroxyhexyl)benzamide | 136 mg, 77% | C1(CCCCC1)N(C(C1=CC=CC=C1)=O)CCCCCCO | C19H29NO2
